US08975417B2
Step 130.5: 5-bromo-2-hydrazinyl-3-methylpyridine
Hydrazine hydrate (119 mL, 2422 mmol) was added to a suspension of 5-bromo-2-chloro-3-methylpyridine (50 g, 242 mmol) in 2-methoxyethanol (250 mL). The resulting solution was stirred 30 h at 120° C. and concentrated. The yellow residue was purified by trituration with H2O to provide the title compound (24 g) as a colorless solid. tR: 0.39 min (LC-MS 2); ESI-MS: 201.9 [M+H]+ (LC-MS 2)

reactant | Hydrazine hydrate | 2422 mmol, 119 mL | O.NN
reactant | 5-bromo-2-chloro-3-methylpyridine | 242 mmol, 50 g | BrC=1C=C(C(=NC1)Cl)C | C6H5BrClN
solvent | 2-methoxyethanol | 250 mL | COCCO | C3H8O2
product | 5-bromo-2-hydrazinyl-3-methylpyridine | 24 g | BrC=1C=C(C(=NC1)NN)C | C6H8BrN3
